US05008426
13. 6-(3,5-Dimethoxybenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
35.1 g (0.175 mol) of 3,5-dimethoxybenzoyl chloride were warmed to 80° C. under a nitrogen atmosphere. 40.3 g (0.175 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were added dropwise over the course of one hour while stirring. At the same time, the temperature was gradually increased to 115° C. When the reaction was complete, 60 ml of toluene were added at 80° C. After crystallization, 49 g (74% of theory) of the abovementioned compound of melting point 140° to 142° C. were obtained.

reactant | 3,5-dimethoxybenzoyl chloride | 0.175 mol, 35.1 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 0.175 mol, 40.3 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3,5-Dimethoxybenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | COC=1C=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C=C(C1)OC | C21H17O5P
